US06531492B1
5-METHYLSULFONYL-2-[5-PHENYL-3-TRIFLUOROMETHYL-1H-PYRAZOL-1-YL]PYRIDINE
To a mixture of the 2-hydrazino-5-(methylsulfonyl)pyridine (456 mg, 2.04 mmol) and 4,4,4-trifluoro-1-phenyl-1,3-butanedione (441 mg, 2.04 mmol) in dry trifluoroethanol (30 ml) was added a catalytic amount of concentrated sulfuric acid (-0.5 ml) and the mixture was refluxed overnight. The reaction mixture was cooled to room temperature and diluted with water 50 ml and neutralized with saturated NaHCO3 to PH˜7 and then extracted with EtOAc (50 ml×3). The organic layer was washed with brine (25 ml), dried (MgSO4) and concentrated to give the crude solid. The crude solid was recrystallized in ethanol to provide a desired product as a crystalline white solid (337 mg, 45% yield).

reactant | 2-hydrazino-5-(methylsulfonyl)pyridine | 2.04 mmol, 456 mg | N(N)C1=NC=C(C=C1)S(=O)(=O)C | C6H9N3O2S
reactant | 4,4,4-trifluoro-1-phenyl-1,3-butanedione | 2.04 mmol, 441 mg | FC(C(CC(=O)C1=CC=CC=C1)=O)(F)F | C10H7F3O2
reactant | sulfuric acid | -0.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | trifluoroethanol | 30 ml | C(C(F)(F)F)O | C2H3F3O
solvent | water | 50 ml | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 5-METHYLSULFONYL-2-[5-PHENYL-3-TRIFLUOROMETHYL-1H-PYRAZOL-1-YL]PYRIDINE | 337 mg, 45% yield | CS(=O)(=O)C=1C=CC(=NC1)N1N=C(C=C1C1=CC=CC=C1)C(F)(F)F | C16H12F3N3O2S
